US07291631B2
Using General Procedure B: Reaction of 3-methyl-2-aminomethylpyridine and 3-methyl-2-pyridinecarboxaldehyde in CH2Cl2 with NaBH(OAc)3 gave bis-(3-methyl-pyridin-2-ylmethyl)-amine as a yellow oil. 1H NMR (CDCl3) δ 2.33 s, 6H), 4.06 (s, 4H), 7.08 (dd, 2H, J=9, 6 Hz), 7.42 (dd, 2H, J=9, 3 Hz), 8.41 (d, 2H, J=3 Hz).

reactant | 3-methyl-2-aminomethylpyridine | CC=1C(=NC=CC1)CN | C7H10N2
reactant | 3-methyl-2-pyridinecarboxaldehyde | CC=1C(=NC=CC1)C=O | C7H7NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | bis-(3-methyl-pyridin-2-ylmethyl)-amine | CC=1C(=NC=CC1)CNCC1=NC=CC=C1C | C14H17N3
